US06248739B1
N-(4-Chlorobenzyl)-6-(3-hydroxy-1-propynyl)-4-oxo-1-vinyl-1,4-dihydro-3-quinolinecarboxamide
A solution of N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide from Preparation No. 5 (1.83 g) is dissolved in DMF (25 mL), and K2CO3 (1.38 g) and 1,2-dibromoethane (4.3 mL) are added. The reaction mixture is heated to 90° C. for 2 h. Water is added and the mixture is extracted with ethyl acetate and then chloroform. The combined organic layers are concentrated in vacuo to give 2.5 g of a dark oil. Column chromatography (elution with 1-3% MeOH/CHCl3) gave 0.378 g of 1-(1-bromoethyl)-N-(4-chlorobenzyl)-6-(3-hydroxy-1-propynyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide as a solid which is used without further purification. 1-(1-bromoethyl)-N-(4-chlorobenzyl)-6-(3-hydroxy-1-propynyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide (0.347 g) is suspended in 1:1 THF/CH3CN (15 mL) and sodium carbonate (0.16 g) and ethylamine (0.4 mL) are added and the mixture is refluxed for 16 h. An additional amount of ethylamine (0.80 mL) is added and the mixture is refluxed for 16 h. An additional amount of ethylamine (0.80 mL) and DMF (5 mL) is added and the mixture is heated at 100° C. for 6 h, and then held at room temperature for 48 h. Potassium carbonate (0.193 g) is added and the mixture is heated at 100° C. for 3 h. The mixture is concentrated in vacuo and partitioned between ethyl acetate and water. The organic layer is concentrated in vacuo to give 0.60 g of an oil. Column chromatography (elution with 1-5% MeOH/CHCl3) gave 0.118 g of the title compound as a solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)C#CCO)C=C1 | C20H15ClN2O3
reactant | K2CO3 | 1.38 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,2-dibromoethane | 4.3 mL | BrCCBr | C2H4Br2
reactant | Water | O | H2O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-6-(3-hydroxy-1-propynyl)-4-oxo-1-vinyl-1,4-dihydro-3-quinolinecarboxamide | 2.5 g | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)C#CCO)C=C)C=C1 | C22H17ClN2O3
